US04929613
Ethyl 4-(1-acetyl-4-piperidinyl)-2,5-difluoro-β-oxobenzenepropionate.
A solution of 2.25 g (7.95 mmol) 1-acetyl-4-(4-carboxy-2,5-difluorophenyl)piperidine in 120 ml of dry tetrahydrofuran at 0° C. was treated with 2.00 g (12.3 mmol) carbonyldiimidazole. The mixture was let warm to room temperature, stirred 1.5 hours, and treated with 3.10 g (10.8 mmol) of magnesium ethyl malonate. The mixture was stirred overnight, refluxed 1.5 hours, evaporated to dryness and shaken with a mixture of ethyl acetate and 3 N hydrochloric acid. The organic layer was washed with sodium bicarbonate solution, dried (MgSO4) and evaporated to afford the title compound as a syrup.

reactant | 1-acetyl-4-(4-carboxy-2,5-difluorophenyl)piperidine | 7.95 mmol, 2.25 g | C(C)(=O)N1CCC(CC1)C1=C(C=C(C(=C1)F)C(=O)O)F | C14H15F2NO3
reactant | carbonyldiimidazole | 12.3 mmol, 2.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium ethyl malonate | 10.8 mmol, 3.10 g | C(CC(=O)[O-])(=O)OCC.[Mg+2].C(C)OC(CC(=O)[O-])=O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | Ethyl 4-(1-acetyl-4-piperidinyl)-2,5-difluoro-β-oxobenzenepropionate | C(C)(=O)N1CCC(CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H21F2NO4
